US05158946
c) Diphenylmethyl 3-(6-Methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate
A stirred solution of diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate 1-oxide (581 mg) in dichloromethane (5 ml) was cooled in an ice bath and dimethylacetamide (0.25 ml) was added followed by phosphorus trichloride (0.16 ml). The mixture was stirred at 0° C. for 15 mins. and then partitioned between sodium bicarbonate solution and chloroform. The chloroform layer was washed with water, then brine, dried over magnesium sulphate and evaporated. The title compound (509 mg) was isolated by column chromatography of the residue using gradient elution (Kieselgel, 1:1 hexane: ethyl acetate going to neat ethyl acetate). υmax (CHCl3) 3400, 1795, 1725, 1710, and 1680 cm-1. δH (CDCl3) 2.16 (3H, s), 3.33 (1H, d, J 18.1Hz), 3.62 (1H, d, J 17.9Hz), 3.65 (2H, s), 5.03 (1H, d, J 5.1Hz), 5.66 (1H, s) 5.71 (1H, s), 5.94 (1H, dd, J 5.1 and 9.2Hz), 6.96 (1H, s), 6.98 (1H, d, J 9.1Hz), 7.2-7.4 (15H, m). [mass spectrum: +ve ion (3 NOBA, Na+) M Na+ 647].

reactant | diphenylmethyl 3-(6-methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate 1-oxide | 581 mg | CC1=CC(=CC(O1)=O)SC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O)=O | C34H28N2O7S2
reactant | dimethylacetamide | 0.25 ml | CC(=O)N(C)C | C4H9NO
reactant | phosphorus trichloride | 0.16 ml | P(Cl)(Cl)Cl | Cl3P
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | Diphenylmethyl 3-(6-Methyl-2-oxo-2H-pyran-4-ylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate | 509 mg | CC1=CC(=CC(O1)=O)SC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C34H28N2O6S2
